US05106732
A mixture of 4'-benzyloxy-2-bromoacetophenone (3.0 g) and thioformamide (0.63 g) in ethanol (50 ml) was refluxed under heating for 30 minutes. The reaction mixture was poured into ice-water, and the precipitating crystals were collected by filtration, extracted with diethyl ether and purified by column chromatography on silica gel [eluting solvent: methylene chloride-hexane (1:9)] to give 4-(4-benzyloxyphenyl) thiazole (720 mg, 27.7%), which was further purified by recrystallization from diethyl ether-hexane. m.p. 109°-110° C.

reactant | 4'-benzyloxy-2-bromoacetophenone | 3.0 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(CBr)=O | C15H13BrO2
reactant | thioformamide | 0.63 g | C(=S)N | CH3NS
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 4-(4-benzyloxyphenyl) thiazole | 720 mg, 27.7% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1N=CSC1 | C16H13NOS
